US05132307
A mixture of 310 mg of 2,2-dimethyl-4-(2-oxo-1,2-dihydro-4-pyridyloxy)-6-cyano-1,2,3,4-tetrahydro-3-naphthol, 20 ml of acetone, 400 mg of K2CO3 and 0.2 ml of dimethylsulfate is boiled for 2 hours. The mixture is filtered and the filtrate is worked up in the customary manner to give 2,2-dimethyl-4-(1-methyl-2-oxo-1,2-dihydro-4-pyridyloxy)-6-cyano-1,2,3,4-tetrahydro-3-naphthol.

reactant | 2,2-dimethyl-4-(2-oxo-1,2-dihydro-4-pyridyloxy)-6-cyano-1,2,3,4-tetrahydro-3-naphthol | 310 mg | CC1(CC2=CC=C(C=C2C(C1O)OC1=CC(NC=C1)=O)C#N)C | C18H18N2O3
reactant | K2CO3 | 400 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dimethylsulfate | 0.2 ml | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2,2-dimethyl-4-(1-methyl-2-oxo-1,2-dihydro-4-pyridyloxy)-6-cyano-1,2,3,4-tetrahydro-3-naphthol | CC1(CC2=CC=C(C=C2C(C1O)OC1=CC(N(C=C1)C)=O)C#N)C | C19H20N2O3
